US05034153
To 26.0 g of 9-decene-1-ol was added 10 drops of pyridine, and the mixture was placed into an eggplant flask. To the mixture was added dropwise 24.0 g of thionyl chloride, during cooling with ice. After dropping thionyl chloride, reaction was carried out for 8.5 hours at 70° C. After conclusion of the reaction, the reaction solution was diluted with dichloromethane, and then washed with an aqueous potassium carbonate. The washed solution was dried on magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by column chromatography to obtain 27.7 g of 1-chloro-1-decene. (Yield: 95%)

reactant | 9-decene-1-ol | 26.0 g | C(CCCCCCCC=C)O | C10H20O
reactant | thionyl chloride | 24.0 g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 10 drops | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-chloro-1-decene | 27.7 g, Yield: 95% | ClC=CCCCCCCCC | C10H19Cl
